US07473790B2
Step 1: 3,3-Dimethyl-3H-benzofuran-2-one
A solution of 3H-Benzofuran-2-one (4.02 g, 30 mmol) dissolved in THF (15 mL) was added cautiously to a suspension of NaH (95% dry, 1.58 g, 66 mmol) in DMF (60 mL) and THF (30 mL) under a nitrogen atmosphere, at 0° C. The mixture was stirred until gas evolution ceased, then MeI (5.6 mL, 90 mmol) was added slowly to avoid boiling over. After MeI addition was complete the reaction further stirred 1 h at room temperature then quenched by carefully pouring onto a mixture of HCl (1N) and ice. The resulting solution was extracted with ether, washed with brine, dried over MgSO4, and chromatographed on silica eluted with a gradient of 5-50% ethyl acetate/hexanes, yielding 3.16 g (65% yield) of the product.

reactant | 3H-Benzofuran-2-one | 30 mmol, 4.02 g | O1C(CC2=C1C=CC=C2)=O | C8H6O2
reactant | NaH | 66 mmol, 1.58 g | [H-].[Na+]
reactant | MeI | 90 mmol, 5.6 mL | CI | CH3I
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3,3-Dimethyl-3H-benzofuran-2-one | 3.16 g, 65% yield | CC1(C(OC2=C1C=CC=C2)=O)C | C10H10O2
